US08304552B2
Preparation of (2S,3R)-methyl 3-((S)-2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenamido)propanoyloxy)-2-(nicotinamido)butanoate (I-10)
The same synthetic sequence outlined above for the preparation of (2S,3R)-methyl 3-((S)-2-((4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamido)propanoyloxy)-2-(nicotinamido)butanoate was used, except that (5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenoic acid (EPA) was used instead of DHA. MS calculated for C34H47N3O6: 593.35. found: [M+H]+ 594.

reactant | (2S,3R)-methyl 3-((S)-2-((4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamido)propanoyloxy)-2-(nicotinamido)butanoate | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)N[C@H](C(=O)O[C@@H]([C@@H](C(=O)OC)NC(C1=CN=CC=C1)=O)C)C | C36H49N3O6
reactant | (5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenoic acid | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)O | C20H30O2
product | (2S,3R)-methyl 3-((S)-2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenamido)propanoyloxy)-2-(nicotinamido)butanoate | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)N[C@H](C(=O)O[C@@H]([C@@H](C(=O)OC)NC(C1=CN=CC=C1)=O)C)C | C34H47N3O6
